US06265411B1
Sodium hydride (58 mg, 2.4 mmol) was added to solution of 5-(2-morpholinoacetyl)oxindole (312 mg, 1.2 mmol) and 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline (160 mg, 0.6 mmol), (prepared as described for the starting material in Example 2), in DMF (15 ml). The mixture was stirred for 1.5 hours at ambient temperature and the volatiles were removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (96/4 followed by 94/6). The purified solid product was triturated with ether, collected by filtration, washed with ether and dried under vacuum. The solid was dissolved in methylene chloride (10 ml) and methanol (10 ml) and 1M methanolic hydrogen chloride (2 ml) was added. The volatiles were removed by evaporation and the solid residue was suspended in ether, collected by filtration, washed with ether and dried under vacuum to give 6-methoxy-7-(2-methoxyethoxy)-4-(5-(2-morpholinoacetyl)oxindol-3-yl)quinazoline hydrochloride (136 mg, 39%).

reactant | Sodium hydride | 2.4 mmol, 58 mg | [H-].[Na+]
reactant | 5-(2-morpholinoacetyl)oxindole | 1.2 mmol, 312 mg | O1CCN(CC1)CC(=O)C=1C=C2CC(NC2=CC1)=O | C14H16N2O3
reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline | 0.6 mmol, 160 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-7-(2-methoxyethoxy)-4-(5-(2-morpholinoacetyl)oxindol-3-yl)quinazoline hydrochloride | 136 mg, 39% | Cl.COC=1C=C2C(=NC=NC2=CC1OCCOC)C1C(NC2=CC=C(C=C12)C(CN1CCOCC1)=O)=O | InChI=1S/C26H28N4O6.ClH/c1-33-9-10-36-23-13-20-18(12-22(23)34-2)25(28-15-27-20)24-17-11-16(3-4-19(17)29-26(24)32)21(31)14-30-5-7-35-8-6-30;/h3-4,11-13,15,24H,5-10,14H2,1-2H3,(H,29,32);1H
